US05183925
A solution of 4-(2-iodophenoxy)-butyric acid in 10 ml of isopropanol is mixed with 0.5 g of Amberlyst 15, stirred overnight at room temperature and then refluxed for 2 hours. Then, it is filtered from the Amberlyst 15, the filtrate is concentrated by evaporation, the residue is taken up in diethyl ether, washed with diluted sodium carbonate solution, dried and concentrated by evaporation. 920 mg of 4-(2-iodophenoxy)butyric acid isopropylester is obtained as a colorless oil.

reactant | 4-(2-iodophenoxy)-butyric acid | IC1=C(OCCCC(=O)O)C=CC=C1 | C10H11IO3
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | 4-(2-iodophenoxy)butyric acid isopropylester | 920 mg | C(C)(C)OC(CCCOC1=C(C=CC=C1)I)=O | C13H17IO3
